US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 30 mg, 0.070 mmol) was dissolved in DMF (1 mL) prior to the addition of 4-methylmorpholine (0.076 mL, 0.696 mmol), ammonia (0.5M in dioxane, 0.278 mL, 0.139 mmol), and HATU (39.7 mg, 0.104 mmol). This was stirred overnight and was then purified by preparative HPLC (PHENOMENEX® Luna 5u C18 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention time=11.4 min) to give (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (10 mg, 0.021 mmol, 30.4% yield): LCMS=431.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.18 (2 H, d, J=8.36 Hz), 7.65-7.80 (4 H, m), 7.52-7.65 (3 H, m), 5.11 (1 H, s). HPLC Peak RT=7.9 min (Analytical Method C).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 4-methylmorpholine | 0.696 mmol, 0.076 mL | CN1CCOCC1 | C5H11NO
reactant | ammonia | 0.139 mmol, 0.5M, 0.278 mL | N | H3N
reactant | HATU | 0.104 mmol, 39.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.021 mmol, 10 mg, 30.4% yield | OC(C(=O)N)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H13F3N4O4
